US07727988B2
5-(2-methyl-4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E23)
5-(2-methyl-4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was treated with a solution of 4N HCl in dioxane (1 eq) to give the title compound as a white solid. (32 mg)

reactant | 5-(2-methyl-4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | CC1=NC=CC(=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H25F3N4O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 1 eq | O1CCOCC1 | C4H8O2
product | 5-(2-methyl-4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.CC1=NC=CC(=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H25F3N4O2.ClH/c1-16-11-17(7-8-29-16)21-14-32(23(34)30-22(21)33)10-2-9-31-13-20-12-24(20,15-31)18-3-5-19(6-4-18)25(26,27)28;/h3-8,11,14,20H,2,9-10,12-13,15H2,1H3,(H,30,33,34);1H/t20-,24+;/m0./s1
